US07820691B2
a) 2-(Carboxymethylamino)benzoic acid
To a solution of chloroacetic acid (347 g, 3.67 mol) in water (500 mL), sodium carbonate (200 g, 4.72 mol) was carefully added at room temperature under stirring. The formed solution was heated to 40-45° C. and quickly added to a mixture prepared from a suspension of anthranilic acid (500 g, 3.65 mol) in water (340 mL) and 35% aqueous sodium hydroxide solution (320 mL) and heated to 40-45° C. The reaction mixture was kept at 40° C. for 4 days and the solid reaction mixture was treated with a solution of sodium hydroxide (150 g, 3.75 mol) in water (4 L). The mixture was heated to 60° C. and filtered off while hot. The solid residue was washed on the filter with 20% aqueous sodium hydroxide until the solid residue was dissolved, and the combined filtrates were acidified with 37% aqueous hydrochloric acid to pH 3. The precipitate was filtered off; an additional amount of the product precipitated overnight from the filtrate and was collected. The product was dried at 100° C. to give total 567 g (80%), m.p. 220° C.

reactant | chloroacetic acid | 3.67 mol, 347 g | ClCC(=O)O | C2H3ClO2
reactant | sodium carbonate | 4.72 mol, 200 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | anthranilic acid | 3.65 mol, 500 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
solvent | water | 500 mL | O | H2O
solvent | water | 340 mL | O | H2O
solvent | sodium hydroxide | 320 mL | [OH-].[Na+]
solvent | water | 4 L | O | H2O
solvent | sodium hydroxide | 3.75 mol, 150 g | [OH-].[Na+]
product | 2-(Carboxymethylamino)benzoic acid | C(=O)(O)CNC1=C(C(=O)O)C=CC=C1 | C9H9NO4
